US04661635
The free base of 2-iodo-5-methoxy-N,alphadimethyl-N-[(phenyl)butyl]benzeneethanamine hydrochloride (1.66 g, 3.1 mmole) was dissolved in 10 ml of triethylamine and 0.68 ml (6.2 mmole) of phenylacetylene, 11 mg (0.015 mmole) of bis(triphenylphosphine)palladium (II) chloride and 6 mg (0.03 mmole) copper (I) iodide were added. The mixture was stirred under argon at room temperature for 20 hours. An additional 6 mg copper (I) iodide and 11 mg bis(triphenylphosphine)palladium (II) chloride were added. The mixture was stirred for 20 hours. The solvent was evaporated in vacuo. The residue was taken up in CH2Cl2. The CH2Cl2 was washed with dilute HCl and dilute NaOH solution, dried (K2CO3) and the solvent evaporated in vacuo. A hydrochloride salt was prepared from ethereal hydrogen chloride and recrystallized twice from 2-propanolether to give 0.46 g of 5-methoxy-N,alphadimethyl-N-[(phenyl)butyl]-2-[(phenyl)ethynyl]benzeneethanamine hydrochloride, mp 133°-135° C.

reactant | 2-iodo-5-methoxy-N,alphadimethyl-N-[(phenyl)butyl]benzeneethanamine hydrochloride | 3.1 mmole, 1.66 g | Cl.IC1=C(C=C(C=C1)OC)CC(N(CCCCC1=CC=CC=C1)C)C
reactant | phenylacetylene | 6.2 mmole, 0.68 ml | C1(=CC=CC=C1)C#C | C8H6
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.015 mmole, 11 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper (I) iodide | 0.03 mmole, 6 mg | [Cu]I
catalyst | copper (I) iodide | 6 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium (II) chloride | 11 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 5-methoxy-N,alphadimethyl-N-[(phenyl)butyl]-2-[(phenyl)ethynyl]benzeneethanamine hydrochloride | 0.46 g | Cl.COC=1C=CC(=C(C1)CC(N(CCCCC1=CC=CC=C1)C)C)C#CC1=CC=CC=C1 | InChI=1S/C29H33NO.ClH/c1-24(30(2)21-11-10-16-25-12-6-4-7-13-25)22-28-23-29(31-3)20-19-27(28)18-17-26-14-8-5-9-15-26;/h4-9,12-15,19-20,23-24H,10-11,16,21-22H2,1-3H3;1H
